US06649600B1
[4-(2,6-Dioxo-1,3-dipropyl-2,3,6,9-tetrahydro-1H-purin-8-yl)-bicyclo[2.2.2]oct-1-yl]-acetaldehyde
To a stirred suspension of methoxymethyl triphenylphosphonium chloride (1.1 g, 3.2 mmol) in THF (60 ml) at −78° C. was added a solution of KHMDS (0.5 M in toluene, 10 ml, 5 mmol). The resulting yellow mixture was stirred at this temperature for 1.5 h and a solution of 4-(2,6-dioxo-1,3-dipropyl-2,3,6,9-tetrahydro-1H-purin-8-yl)-bicyclo[2.2.2]octane-1-carbaldehyde (372 mg, 1.0 mmol) in THF (12 ml) was added over a period of 20 minutes. The mixture was held at −78° C. for 6 h and allowed to reach ambient temperature overnight (12 h). The reaction mixture was partitioned between saturated aqeuous NH4Cl (100 ml) and EtOAc (100 ml) and the aqueous phase was extracted with EtOAc (50 ml). The combined organic extracts were washed with saturated aqeuous NaCl (100 ml), concentrated in vacuo, redissolved in THF and concentrated to a volume of approx. 20 ml. To the solution was added an equal volume of 1 N HCl and the mixture was stirred overnight. The mixture was diluted with EtOAc (20 ml), the aqueous phase was separated and extracted with EtOAc (10 ml). The combined organic phases were then washed with saturated aqeuous NaCI (2×, 25 ml), dried (MgSO4), filtered and concentrated in vacuo. The resulting orange oil was purified in batches by radial chromatography (2 mm plate) using 3% MeOH and 3% THF in CH2Cl2 as eluent. Product-containing fractions were combined and concentrated to afford 290 mg (75%) of a white solid. MS: 387 (MH+).

reactant | methoxymethyl triphenylphosphonium chloride | 3.2 mmol, 1.1 g | [Cl-].COC[P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1
reactant | KHMDS | 5 mmol, 0.5 M, 10 ml | C[Si](C)(C)[N-][Si](C)(C)C.[K+]
reactant | 4-(2,6-dioxo-1,3-dipropyl-2,3,6,9-tetrahydro-1H-purin-8-yl)-bicyclo[2.2.2]octane-1-carbaldehyde | 1.0 mmol, 372 mg | O=C1N(C(C=2N=C(NC2N1CCC)C12CCC(CC1)(CC2)C=O)=O)CCC | C20H28N4O3
solvent | THF | 60 ml | C1CCOC1 | C4H8O
solvent | THF | 12 ml | C1CCOC1 | C4H8O
product | [4-(2,6-Dioxo-1,3-dipropyl-2,3,6,9-tetrahydro-1H-purin-8-yl)-bicyclo[2.2.2]oct-1-yl]-acetaldehyde | 290 mg, 75% | O=C1N(C(C=2N=C(NC2N1CCC)C12CCC(CC1)(CC2)CC=O)=O)CCC | C21H30N4O3
